US05338752
A solution of 1,4,5-triphenyl-3-(7-bromoheptyl)-imidazol-2-one (2.0 g) in ethanol (10 ml) was refluxed with a solution of sodium sulphite (0.55 g) in water (5 ml) for 20 hours. More sodium sulphite (0.2 g) was added and refluxing continued for a further 20 hours. The mixture was evaporated to dryness, boiled in ethanol, filtered hot and evaporated to an oil. This was taken up in a small volume of ethanol, excess diethyl ether added and the precipitated solid filtered off and chromatographed on silica gel (dichloromethane/methanol 5:1). The resulting oil in methanol/water 1:1 was passed down an Amberlyst 15 ion exchange resin (Na form) and evaporated to a solid. This was taken up in ethanol and precipitated with diethyl ether giving sodium 7-(3,4,5-triphenyl-2-oxo-2,3-dihydroimidazol-1-yl)heptanesulphonate (0.49 g), 23%) as a white solid, m.p. 160° C.

reactant | 1,4,5-triphenyl-3-(7-bromoheptyl)-imidazol-2-one | 2.0 g | C1(=CC=CC=C1)N1C(N(C(=C1C1=CC=CC=C1)C1=CC=CC=C1)CCCCCCCBr)=O | C28H29BrN2O
reactant | sodium sulphite | 0.55 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium sulphite | 0.2 g | S(=O)([O-])[O-].[Na+].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | 5 ml | O | H2O
product | sodium 7-(3,4,5-triphenyl-2-oxo-2,3-dihydroimidazol-1-yl)heptanesulphonate | 0.49 g | C1(=CC=CC=C1)N1C(N(C(=C1C1=CC=CC=C1)C1=CC=CC=C1)CCCCCCCS(=O)(=O)[O-])=O.[Na+] | InChI=1S/C28H30N2O4S.Na/c31-28-29(21-13-2-1-3-14-22-35(32,33)34)26(23-15-7-4-8-16-23)27(24-17-9-5-10-18-24)30(28)25-19-11-6-12-20-25;/h4-12,15-20H,1-3,13-14,21-22H2,(H,32,33,34);/q;+1/p-1
